### PR TITLE
ssreflect part of CohenCyril's abel backport

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change
Extracts the part from https://github.com/math-comp/math-comp/pull/944 that concern ssreflect.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)

##### Compatibility with MathComp 1.X

- [ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/ssreflect/prime.v [hunk 1]
```diff
@@ -454,6 +459,9 @@ Proof.
 by case: (posnP n) => [-> // | /prime_decomp_correct[_ _]]; apply: path_sorted.
 Qed.
 
+Lemma prime_primes n : all prime (primes n).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/prime.v:462]:
```suggestion
Lemma all_prime_primes n : all prime (primes n).
```

**Comment by CohenCyril** [comment]
I cannot review my own work, @affeldt-aist @proux01 @thery could one of you review this one please?

File: mathcomp/ssreflect/prime.v (hunk 1 above)
Comment (proux01) [reply mathcomp/ssreflect/prime.v:462]: Shouldn't it be ``primes_all_prime`? (I'm still lost with this naming convention)

**Comment by proux01** [comment]
I'll have a careful look. I got a quick look and it mostly seem fine but I may have a few nitpicking comments.

File: mathcomp/ssreflect/prime.v (hunk 1 above)
Comment (proux01) [reply mathcomp/ssreflect/prime.v:462]: So IIUC, looking at CONTRIBUTING.md, the two main solutions would be
* `naryPredicate_mainSymbol+` leading to `all_prime_primes` with `all` seen as binary pred and `prime` and `primes` two main symbols
* `mainSymbol_unaryPredicate` with `primes` as main symbol and `all_prime` as unary pred

No strong opinion on my side, I'm fine with `all_prime_primes`

Comment (CohenCyril) [reply mathcomp/ssreflect/prime.v:462]: Sure either are fine

File: mathcomp/ssreflect/bigop.v [hunk 2]
```diff
@@ -1197,6 +1197,26 @@ Proof. exact: big_nseq_cond. Qed.
...
+  \big[op/x]_(j <- r | P j) F j = op (\big[op/idx]_(j <- r | P j) F j) x.
+Proof.
+elim: r => [|i r]; rewrite ?(big_nil, big_cons, Monoid.mul1m)// => ->.
+by case: ifP => // Pi; rewrite Monoid.mulmA.
+Qed.
+
+Lemma big_rcons (R : Type) (idx : R) (op : Monoid.law idx) (I : Type)
+   i r (P : pred I) F :
+  \big[op/idx]_(j <- rcons r i | P j) F j =
+  op (\big[op/idx]_(j <- r | P j) F j) (if P i then F i else idx).
```
Comment (proux01) [inline mathcomp/ssreflect/bigop.v:1217]: This should go in the MonoidProperties / Plain section.

File: mathcomp/ssreflect/bigop.v [hunk 3]
```diff
@@ -1197,6 +1197,26 @@ Proof. exact: big_nseq_cond. Qed.
...
+Proof. by rewrite big_rcons_op big_change_idx Monoid.mulm1. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/bigop.v:1218]:
```suggestion
Proof. by rewrite big_rcons_op big_change_idx mulm1. Qed.
```

File: mathcomp/ssreflect/bigop.v [hunk 4]
```diff
@@ -1802,17 +1822,34 @@ Lemma big_allpairs I1 I2 (r1 : seq I1) (r2 : seq I2) F :
...
+have : i \in index_enum I by rewrite mem_index_enum.
+elim: index_enum => //= j r IHr /[!inE]; case: eqVneq => [<-|nij]//=.
+  move=> _ /andP[iNr runiq]; rewrite big_cons/= Pi big1_seq ?Monoid.mulm1//.
+  by move=> {}j /andP[/Fisx + jr] => ->//; apply: contraNneq iNr => <-.
+move=> ir /andP[jNr runiq]; rewrite big_cons IHr//.
+by case: ifPn => // /Fisx->; rewrite 1?eq_sym// Monoid.mul1m.
 Qed.
 
+Lemma big_pred1_eq (I : finType) (i : I) F :
+  \big[*%M/1]_(j | j == i) F j = F i.
```
Comment (proux01) [inline mathcomp/ssreflect/bigop.v:1839]:
```suggestion
Lemma big_pred1_eq (I : finType) (i : I) F : \big[*%M/1]_(j | j == i) F j = F i.
```

File: mathcomp/ssreflect/bigop.v [hunk 5]
```diff
@@ -1802,17 +1822,34 @@ Lemma big_allpairs I1 I2 (r1 : seq I1) (r2 : seq I2) F :
...
+Proof. by rewrite (@big_only1 _ i)// => j /negPf->. Qed.
```
Comment (proux01) [inline mathcomp/ssreflect/bigop.v:1840]: The @ may indicate that the implicit arguments of `big_only1` are not satisfying, maybe some `Arguments` is in order.

File: mathcomp/ssreflect/bigop.v [hunk 6]
```diff
@@ -1802,17 +1822,34 @@ Lemma big_allpairs I1 I2 (r1 : seq I1) (r2 : seq I2) F :
     \big[*%M/1]_(i1 <- r1) \big[op/idx]_(i2 <- r2) F (i1, i2).
 Proof. exact: big_allpairs_dep. Qed.
 
-Lemma big_pred1_eq (I : finType) (i : I) F :
-  \big[*%M/1]_(j | j == i) F j = F i.
+Lemma big_only1 (I : finType) (i : I) (P : pred I) (F : I -> R) : P i ->
```
Comment (proux01) [inline mathcomp/ssreflect/bigop.v:1825]: Maybe `big1_pred1`

File: mathcomp/ssreflect/bigop.v (hunk 5 above)
Comment (proux01) [reply mathcomp/ssreflect/bigop.v:1840]: Ok, it seems to be at the end of the section, if it's only used once, that's probably the best solution.

File: mathcomp/ssreflect/eqtype.v [hunk 7]
```diff
@@ -50,6 +50,7 @@ From mathcomp Require Import ssreflect ssrfun ssrbool.
 (*    the auto-expanding function that maps x = a_i to e_i, and other values  *)
 (*    of x to e0 (resp. f x). In the first form the `: T' is optional and x   *)
 (*    can occur in a_i or e_i                                                 *)
+(*          dfwith f x == fun j => x if j = i, and f j otherwise given x : T i*)
```
Comment (proux01) [inline mathcomp/ssreflect/eqtype.v:53]: This should probably also give the type of `f` otherwise it's hard to understand.

Comment (proux01) [inline mathcomp/ssreflect/eqtype.v:53]: Couldn't this also be expressed in terms of `[eta f with _ |-> _]` above?

File: mathcomp/ssreflect/eqtype.v [hunk 8]
```diff
@@ -506,6 +507,31 @@ Notation "[ 'eta' f 'with' d1 , .. , dn ]" :=
   "'[hv' [ '[' 'eta' '/ '  f ']' '/'  'with'  '[' d1 , '/'  .. , '/'  dn ']' ] ']'"
   ) : function_scope.
 
+Section DFunWith.
+Variables (I : eqType) (T : I -> Type) (f : forall i, T i).
+
+Definition dfwith i (x : T i) (j : I) : T j :=
+  if (i =P j) is ReflectT ij then ecast j (T j) ij x else f j.
+
+Lemma dfwithin i x : dfwith x i = x.
```
Comment (proux01) [inline mathcomp/ssreflect/eqtype.v:516]: Maybe `dfwith_in` or `dfwithT`?

File: mathcomp/ssreflect/eqtype.v [hunk 9]
```diff
@@ -506,6 +507,31 @@ Notation "[ 'eta' f 'with' d1 , .. , dn ]" :=
...
+Proof. by rewrite /dfwith; case: eqP => // ii; rewrite eq_axiomK. Qed.
+
+Lemma dfwithout i (x : T i) j : i != j -> dfwith x j = f j.
```
Comment (proux01) [inline mathcomp/ssreflect/eqtype.v:519]: Maybe `dfwith_out` or `dfwithF`?

File: mathcomp/ssreflect/eqtype.v [hunk 10]
```diff
@@ -506,6 +507,31 @@ Notation "[ 'eta' f 'with' d1 , .. , dn ]" :=
...
+Proof. by rewrite /dfwith; case: eqP. Qed.
+
+Variant dfwith_spec i (x : T i) : forall j, T j -> Type:=
+  | DFunWithin : dfwith_spec x x
+  | DFunWithout j : i != j -> dfwith_spec x (f j).
```
Comment (proux01) [inline mathcomp/ssreflect/eqtype.v:524]: Maybe
```suggestion
  | DFunWithIn : dfwith_spec x x
  | DFunWithOut j : i != j -> dfwith_spec x (f j).
```

File: mathcomp/ssreflect/finset.v [hunk 11]
```diff
@@ -1055,6 +1055,27 @@ End CartesianProd.
 
 Arguments setXP {fT1 fT2 A1 A2 x1 x2}.
 
+Section CartesianNProd.
+
+Variables (I : finType) (fT : I -> finType).
+Variables (A : forall i, {set fT i}).
+Implicit Types (x : {dffun forall i, fT i}).
+
+Definition setXn := [set x : {dffun _} in family A].
```
Comment (proux01) [inline mathcomp/ssreflect/finset.v:1064]: Shouldn't this be documented in the header comment?

File: mathcomp/ssreflect/prime.v [hunk 12]
```diff
@@ -551,6 +559,13 @@ Arguments primePns {n}.
 
 Lemma pdivP n : n > 1 -> {p | prime p & p %| n}.
 Proof. by move=> lt1n; exists (pdiv n); rewrite ?pdiv_dvd ?pdiv_prime. Qed.
+ 
+Lemma primes_neq0 n : (primes n == [::]) = (n < 2).
```
Comment (proux01) [inline mathcomp/ssreflect/prime.v:563]: Not sure I understand the `neq0`, maybe `primes_nil`?

**Review by proux01 — COMMENTED** [review]
A few nitpicking comments but otherwise looks good to me.

File: mathcomp/ssreflect/eqtype.v (hunk 8 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/eqtype.v:516]: I prefere `in` no matter whether there is a `_`

File: mathcomp/ssreflect/prime.v (hunk 12 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/prime.v:563]: `0` is sometimes used as an alias for `nil` (as in `cats0`), and the LHS being an equation `eq` is appropriate. However it should be `primes_eq0` rather than `neq` my bad.

File: mathcomp/ssreflect/eqtype.v (hunk 7 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/eqtype.v:53]: No, because it's the dependent version, we should probablycraft another set of notations for the dependent version.

File: mathcomp/ssreflect/prime.v (hunk 12 above)
Comment (proux01) [reply mathcomp/ssreflect/prime.v:563]: Yes, `primes_eq0` sounds good

File: mathcomp/ssreflect/bigop.v (hunk 6 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/bigop.v:1825]: `pred1` would suggest that the predicate is (equivalent to) `pred1` which is not the case and `big1` that the result is the identity. I think I prefer the current name.

**Comment by Tragicus** [comment]
Thank you for the review. I corrected everything except the last one on bigop (which I tagged with :eyes:).

File: mathcomp/ssreflect/prime.v [hunk 13]
```diff
@@ -551,6 +559,13 @@ Arguments primePns {n}.
 
 Lemma pdivP n : n > 1 -> {p | prime p & p %| n}.
 Proof. by move=> lt1n; exists (pdiv n); rewrite ?pdiv_dvd ?pdiv_prime. Qed.
+ 
+Lemma primes_ne0 n : (primes n == [::]) = (n < 2).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/prime.v:563]:
```suggestion
Lemma primes_eq0 n : (primes n == [::]) = (n < 2).
```

Comment (Tragicus) [reply mathcomp/ssreflect/prime.v]: :facepalm: Even the changelog was wrong. Thank you.

**Review by proux01 — APPROVED** [review]
